US06552068B1
Sodium iodide (35.1 g, 2.15 mol) was added to a solution of 1-methanesulfonyloxy-4,4,5,5,5-pentafluoropentane (20 g, 0.781 mol) in acetone (200 ml), followed by heating under reflux for 12 hours. After the reaction mixture was filtered, the filtrate was concentrated. Ethyl acetate was added to the residue, which was then filtered again. The filtrate was washed with water and saturated aqueous sodium chloride, and then dried over anhydrous magnesium sulfate. The solvent was distilled off to give 1-iodo-4,4,5,5,5-pentafluoropentane (21.1 g, Yield 93.4%).

reactant | Sodium iodide | 2.15 mol, 35.1 g | [I-].[Na+]
reactant | 1-methanesulfonyloxy-4,4,5,5,5-pentafluoropentane | 0.781 mol, 20 g | CS(=O)(=O)OCCCC(C(F)(F)F)(F)F | C6H9F5O3S
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | 1-iodo-4,4,5,5,5-pentafluoropentane | 21.1 g, Yield 93.4% | ICCCC(C(F)(F)F)(F)F | C5H6F5I
